US05763489
A solution of 2-[(5-ethoxycarbonylmethoxy-1,2,3,4-tetrahydro-1-naphthyl)methoxycarbonyl]-1,1-diphenylhydrazine (0.17 g) and 1N-aqueous sodium hydroxide (1 ml) in dioxane (1.5 ml) was stirred at room temperature for 30 minutes and partitioned between 5% hydrochloric acid and ethyl acetate. The organic layer was washed with brine, dried over sodium sulfate, and evaporated in vacuo. The residue was washed with isopropanol to afford 2-[(5-carboxymethoxy-1,2,3,4-tetrahydro-1-naphthyl)methoxycarbonyl]-1,1-diphenylhydrazine (0.08 g) as a colorless powder.

reactant | 2-[(5-ethoxycarbonylmethoxy-1,2,3,4-tetrahydro-1-naphthyl)methoxycarbonyl]-1,1-diphenylhydrazine | 0.17 g | C(C)OC(=O)COC1=C2CCCC(C2=CC=C1)COC(=O)NN(C1=CC=CC=C1)C1=CC=CC=C1 | C28H30N2O5
reactant | sodium hydroxide | 1 ml | [OH-].[Na+]
solvent | dioxane | 1.5 ml | O1CCOCC1 | C4H8O2
product | 2-[(5-carboxymethoxy-1,2,3,4-tetrahydro-1-naphthyl)methoxycarbonyl]-1,1-diphenylhydrazine | 0.08 g | C(=O)(O)COC1=C2CCCC(C2=CC=C1)COC(=O)NN(C1=CC=CC=C1)C1=CC=CC=C1 | C26H26N2O5
